US09359359B2
1-(2-(2-bromoethoxy)ethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (100 mg, 0.16 mmol) was dissolved in a preformed solution of ammonia in methanol (15 mL). The reaction was heated at 60° C. overnight in a sealed tube. The reaction was cooled to room temperature and the solvent was evaporated. The residue was purified by preparative HPLC to give 1-(2-(2-aminoethoxy)ethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (35 mg, 39% yield) as white solid.

reactant | 1-(2-(2-bromoethoxy)ethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.16 mmol, 100 mg | BrCCOCCN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC(F)(F)F)C)=O | C24H21BrClF3N4O5
reactant | ammonia | N | H3N
solvent | methanol | 15 mL | CO | CH4O
product | 1-(2-(2-aminoethoxy)ethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 35 mg, 39% yield | NCCOCCN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC(F)(F)F)C)=O | C24H23ClF3N5O5
